US07427683B2
c) 5-Cyano-furan-2-carboxylic acid (4-acetylamino-2-piperidin-1-yl-phenyl)-amide
Using a procedure similar to Example 3, step (d), N-(4-amino-3-piperidin-1-yl-phenyl)-acetamide (40 mg, 0.17 mmol, as prepared in the previous step) was allowed to react with 5-cyano-furan-2-carbonyl chloride (27 mg, 0.17 mmol) in the presence of DIEA (65 μL, 0.37 mmol) to afford 23 mg (38%) of the title compound as a yellow solid. 1H-NMR (CDCl3; 400 MHz): δ 9.64 (s, 1H),), 8.36 (d, 1H, J=8.5 Hz), 7.70 (br s, 1H), 7.27 (br s, 1H), 7.22 (d, 1H, J=3.8 Hz), 7.14 (br s, 1H), 7.02 (dd, 1H, J=6.6, 8.9 Hz), 2.85 (br s, 4H), 2.18 (s, 3H), 1.80 (br s, 4H), 1.65 (br s, 2H); Mass spectrum (ESI, m/z): Calcd. for C19H20N4O3, 353.1 (M+H), found 353.2.

reactant | N-(4-amino-3-piperidin-1-yl-phenyl)-acetamide | NC1=C(C=C(C=C1)NC(C)=O)N1CCCCC1 | C13H19N3O
reactant | 5-cyano-furan-2-carbonyl chloride | 0.17 mmol, 27 mg | C(#N)C1=CC=C(O1)C(=O)Cl | C6H2ClNO2
reactant | DIEA | 0.37 mmol, 65 μL | CCN(C(C)C)C(C)C | C8H19N
product | 5-Cyano-furan-2-carboxylic acid (4-acetylamino-2-piperidin-1-yl-phenyl)-amide | 23 mg, 38% | C(C)(=O)NC1=CC(=C(C=C1)NC(=O)C=1OC(=CC1)C#N)N1CCCCC1 | C19H20N4O3
